US04529548
(A) (11β,17β)-11-(Acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one
A solution of (11β,17β)-11-(acetyloxy)-9-fluoro-17-hydroxyandrosta-1,4-dien-3-one (1.0 g; 2.9 mmole) in dry pyridine (12 ml) was stirred in an ice bath and methanesulfonyl chloride (0.435 ml; 644 mg; 5.6 mmole) was added. The solution was left standing at 0°-5° C. for 20 hours and then poured into ice-cold 20% hydrochloric acid. The mixture was extracted with chloroform, the chloroform solution was washed with water, a dilute sodium bicarbonate solution and water, dried (anhydrous magnesium sulfate) and evaporated to afford a solid (1.20 g). One crystallization from ethyl acetatehexane gave a specimen (1.0 g), melting point 210°-211° C. (dec.), with consistent spectral data.

reactant | (11β,17β)-11-(acetyloxy)-9-fluoro-17-hydroxyandrosta-1,4-dien-3-one | 2.9 mmole, 1.0 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)=O)C)F | C21H27FO4
reactant | methanesulfonyl chloride | 5.6 mmole, 0.435 ml, 644 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | (11β,17β)-11-(Acetyloxy)-9-fluoro-17-(methanesulfonyloxy)androsta-1,4-dien-3-one | 1.20 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)OS(=O)(=O)C)=O)C)F | C22H29FO6S
